US05686628
n-Butyllithium (20 ml of a 10M solution in hexane) was added to a solution of (4RS),5SR)-4-isopropyl-5-trifluoromethyl-oxazolidin-2-one (35.8 g) in THF (600 ml) at -78° C., followed by stirring for 0.5 hours. (-)-Menthyl chloroformate (41 ml, freshly distilled) was added followed by continuation of stirring at -78° C. for 0.5 hours. The solution was warmed to 25° C. and the reaction quenched by addition of saturated aqueous sodium bicarbonate solution. The product was extracted into ether and washed with water and brine. The solution was dried (MgSO4) and the solvent removed under vacuum. The resulting oil crystallized upon standing to give a solid which was collected by filtration. The solid was washed with ether:hexane (1:1) and dried to give (4S,5R)-4-isopropyl-3-[(1R,3R,4S)-3-p-menthyloxycarbonyl]-5-trifluoromethyloxazolidin-2-one (23.15 g); m.p. 138°-140° C.; 1H NMR (300 MHz, DMSO): 5.51 (dd, 1H), 4.68 (m, 1H), 4.26 (m, 1H), 2.27 (m, 1H), 1.94 (d, 1H), 1.78 (m, 1H), 1.62 (d, 2H), 1.42 (m, 2H), 1.01 (dd, 2H), 0.95-0.84 (m, 24H), 0.71 (d, 3H); 19FNMR (376.5 MHz,DNSO): -76.9910; 99% d.e. (A further crop of 4.3 g (99% d.e.) was obtained from the mother liquor). [Note: the (4R,5S) isomer has m.p. 80°-82° C. and 19FNMR (376.5 MHz, DMSO): -77.0019.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 4-isopropyl-5-trifluoromethyl-oxazolidin-2-one | 35.8 g | C(C)(C)C1NC(OC1C(F)(F)F)=O | C7H10F3NO2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | (4S,5R)-4-isopropyl-3-[(1R,3R,4S)-3-p-menthyloxycarbonyl]-5-trifluoromethyloxazolidin-2-one | 23.15 g | C(C)(C)[C@@H]1N(C(O[C@H]1C(F)(F)F)=O)C(=O)O[C@@H]1C[C@@H](CC[C@H]1C(C)C)C | C18H28F3NO4
